US08957062B2
Step C: cyclopropyl(2,6-difluoro-4-hydroxyphenyl)methanone
A solution of cyclopropyl {2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanone (700 mg, 2.20 mmol) in DCM (10 ml) was added to TFA (3.0 mL) and the resulting solution stirred for 2 hour at RT. The material was concentrated under reduced pressure and the residue purified via flash column chromatography (80 g silica gel, ISCO, eluting with 30-100% ethyl acetate in hexane) to afford the title compound as an oil. 1H NMR (CDCl3): δ 8.20 (s, 2H), δ 2.43-2.38 (m, 1H), δ 1.35-1.28 (m, 2H), δ 1.10-1.03 (m, 2H). LC/MS 221 (M+Na)+.

reactant | cyclopropyl {2,6-difluoro-4-[(4-methoxybenzyl)oxy]phenyl}methanone | 2.20 mmol, 700 mg | C1(CC1)C(=O)C1=C(C=C(C=C1F)OCC1=CC=C(C=C1)OC)F | C18H16F2O3
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | cyclopropyl(2,6-difluoro-4-hydroxyphenyl)methanone | C1(CC1)C(=O)C1=C(C=C(C=C1F)O)F | C10H8F2O2
